US07482448B2
To a solution of Perhydro-1,4-oxazepine-4-carboxylic acid ((S)-1-{(S)-1-[(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-hydroxy-methyl]-propylcarbamoyl}-3,3-difluoro-butyl)-amide (110 mg, 0.24 mmol) in dry dichloromethane (20 mL) under N2 is added Dess-Martin periodinane (143 mg, 0.34 mmol). The reaction is stirred at RT for 2 hr, and then dichloromethane (20 mL) is added. The reaction is quenched with a solution of Na2S2O3 (0.26M, 2 mL) and washed with saturated NaHCO3 (20 mL). The aqueous layer is extracted with dichloromethane (2×30 mL). The organic layers are dried (Na2SO4) and concentrated in vacuum. The residue is purified over 12 g silica gel, eluted with ethyl acetate: heptane (gradient 50-100%) to afford Perhydro-1,4-oxazepine-4-carboxylic acid {(S)-1-[(S)-1-(3-cyclopropyl-1,2,4-oxadiazole-5-carbonyl)-propylcarbamoyl]-3,3-difluoro-butyl}-amide (82 mg, 75%) as a solid.

reactant | Perhydro-1,4-oxazepine-4-carboxylic acid ((S)-1-{(S)-1-[(3-cyclopropyl-1,2,4-oxadiazol-5-yl)-hydroxy-methyl]-propylcarbamoyl}-3,3-difluoro-butyl)-amide | 0.24 mmol, 110 mg | C1(CC1)C1=NOC(=N1)C([C@H](CC)NC(=O)[C@H](CC(C)(F)F)NC(=O)N1CCOCCC1)O | C20H31F2N5O5
reactant | Dess-Martin periodinane | 0.34 mmol, 143 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
product | Perhydro-1,4-oxazepine-4-carboxylic acid {(S)-1-[(S)-1-(3-cyclopropyl-1,2,4-oxadiazole-5-carbonyl)-propylcarbamoyl]-3,3-difluoro-butyl}-amide | 82 mg, 75% | C1(CC1)C1=NOC(=N1)C(=O)[C@H](CC)NC(=O)[C@H](CC(C)(F)F)NC(=O)N1CCOCCC1 | C20H29F2N5O5
